US05254558
2-[5-(4-Acetylaminobenzylaminosulfonylamino)-6-oxo-2-thienyl-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To a solution of 2-[5-(4-nitrobenzylaminosulfonylamino)-6-oxo-2-thienyl-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.431 g) in acetic acid (12 mL) was added acetic anhydride (0.265 mL), followed by iron powder (0.783 g). The reaction was stirred at room temperature overnight. Methanol was added and the reaction mixture filtered through diatomaceous earth to remove excess iron. Ethyl acetate was added and the resultant solution washed (water (twice), brine), dried (MgSO4) and evaporated. The crude material was purified by chromatography, with dichloromethane:methanol (gradient, 99.5:0.5, 98:2) as the eluent, to provide the title compound (0.247 g); TLC: Rf =0.27, dichloromethane:methanol (98:2); NMR: 0.87-0.97 (m,6), 2.17-2.30 (m,1), 3.32 (s,3), 4.02 (d,2), 4.73-4.77 (m,1) 4.77-4.93 (m,2), 7.13-7.20 (m,3), 7.33 (d,1), 7.47 (d,2), 7.80-7.87 (m,1), 7.91 (s,1), 7.97-8.03 (m,1), 9.04 (d,1), 9.09 (s,1), 9.87 (s,1); MS: m/z=629(M+1).

reactant | 2-[5-(4-nitrobenzylaminosulfonylamino)-6-oxo-2-thienyl-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.431 g | [N+](=O)([O-])C1=CC=C(CNS(=O)(=O)NC2=CC=C(S2)C=2N(C(C=CN2)=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C=C1 | C23H23F3N6O7S2
reactant | acetic anhydride | 0.265 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Methanol | CO | CH4O
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.783 g | [Fe] | Fe
product | 2-[5-(4-Acetylaminobenzylaminosulfonylamino)-6-oxo-2-thienyl-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.247 g | C(C)(=O)NC1=CC=C(CNS(=O)(=O)NC2=CC=C(S2)C=2N(C(C=CN2)=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C=C1 | C25H27F3N6O6S2
